US04990614
Condensation of 3-(2,4-dibenzyloxyphenyl) propionic acid (748 mg) and 1-benzyl-4-(N-tert-butoxycarbonyl-L-glutaminyl)piperazine (1.0 g) was effected in the same manner as in Example 8 (i) to obtain colorless crystalline powder 1-[3-(2,4-dibenzyloxyphenyl)propionyl-L-glutaminyl]-4-benzylpiperazine (1.20 g). Melting point: 145°-147° C.

reactant | 3-(2,4-dibenzyloxyphenyl) propionic acid | 748 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)O | C23H22O4
reactant | 1-benzyl-4-(N-tert-butoxycarbonyl-L-glutaminyl)piperazine | 1.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C([C@@H](NC(=O)OC(C)(C)C)CCC(N)=O)=O | C21H32N4O4
product | 1-[3-(2,4-dibenzyloxyphenyl)propionyl-L-glutaminyl]-4-benzylpiperazine | 1.20 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)N[C@@H](CCC(N)=O)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C39H44N4O5
